US04716237
In agreement with this data the condensation of 2-methoxybenzoic acid methyl ester with acetonitrile using sodamide/liquid ammonia gives 2-methoxybenzoylacetonitrile in 84% yield, in contrast this same reaction using sodium hydride in benzene only leads to a 27.4% reaction yield. (Kawase, Bull, Chem. Soc. Japan, Vol. 35 (1962), pages 1869-1871.)

reactant | 2-methoxybenzoic acid methyl ester | COC(C1=C(C=CC=C1)OC)=O | C9H10O3
reactant | sodamide | [NH2-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-methoxybenzoylacetonitrile | 84% yield | COC1=C(C(=O)CC#N)C=CC=C1 | C10H9NO2
